US09216999B2
1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one
1-{4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl}ethanone (343 mg, 0.720 mmol) in N,N-dimethylformamide dimethyl acetal (2 mL) was stirred at 170° C. for 6 hours under microwave irradiation. The reaction mixture was allowed to cool to room temperature and concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL) and stirred with 1 M hydrochloric acid (3 mL) at 80° C. for 1 hour. After addition of saturated aqueous sodium hydrogen carbonate, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=9/1 (v/v)) to give the title compound (299 mg, yield 85%).

reactant | 1-{4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl}ethanone | 0.720 mmol, 343 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1C(C)=O)N(C=C2)COCC[Si](C)(C)C | C27H38N4O2Si
reactant | N,N-dimethylformamide dimethyl acetal | 2 mL | COC(N(C)C)OC | C5H13NO2
product | 1-(1-Benzylpiperidin-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | 299 mg, yield 85% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=CC(C2=CN=C3C(=C12)C=CN3COCC[Si](C)(C)C)=O | C28H36N4O2Si
